US06083943
(10) (2S*,3S*,4R*,5R*)-1-Benzyloxycarbonyl-4-benzyloxymethyl-3-[N-(t-butoxycarbonyl)amino]-5-methyl-2-phenylpyrrolidine
A mixture of (2S*,3S*,4S*,5S*)-1-benzyloxycarbonyl-4-benzyloxymethyl-3-[N-(t-butoxycarbonyl)amino]-5-iodomethyl-2-phenylpyrrolidine (9.85 g, 15.0 mml), Et3N (5.23 ml, d0.726, 37.5 mmol), and 10% Pd-C (1.83 g) in EtOH-AcOEt (2:1, 210 ml) was stirred under a slightly positive pressure of H2 (baloon) at room temperature for 5 hours, during which the white solids of Et3NH+I- precipitated. The catalysts and white precipitates were filtered off by the aid of a Celite pad, and washed with AcOEt followed by CH2Cl2 throughly. The combined filtrate and washings were concentrated in vacuo. The residue was diluted with PhMe-AcOEt (1:1, 200 ml), washed with sat. Na2SO3 aq. solution (×3), H2O (×2), and sat. NaCl aq. solution (×1), dried (MgSO4), and concentrated in vacuo to give the title compound (7.60 g, 95%) as slightly yellow solids. This was employed in the next step without further purification. A portion of it (0.15 g) was recrystallized from AcOEt-n-hexane to give an analytical sample of the title compound (0.11 g, 65%) as white fine needles (mp 143-144 C.): IRmax (nujol): 3380(s), 1710(s), 1688(s), 1520(s), 1500(w), 770(m), 738(s), 715(s), 698(s) cm-1 ; 1H-NMR δ: 7.50-7.17(m, 1H), 7.12-6.93(m,1H), 5.25(d, J=8.4 Hz, 1H), 5.04(br.s, 2H), 4.49(br.s, 2H), 4.26(ddd, J=11.3, 9.0, 9.0 Hz, 1H), 4.16-4.00(m, 1H), 3.95-3.77(m, 1H), 3.55(br.d, J=4.8 Hz, 2H), 1.97-1.80(m, 1H), 1.63(br.d, J=4.4 Hz, 3H), 1.40(br.s, 9H) ppm.

reactant | (2S*,3S*,4S*,5S*)-1-benzyloxycarbonyl-4-benzyloxymethyl-3-[N-(t-butoxycarbonyl)amino]-5-iodomethyl-2-phenylpyrrolidine | 9.85 g | C(C1=CC=CC=C1)OC(=O)N1[C@H]([C@H]([C@@H]([C@H]1CI)COCC1=CC=CC=C1)NC(=O)OC(C)(C)C)C1=CC=CC=C1 | C32H37IN2O5
reactant | Et3N | 37.5 mmol, 5.23 ml | CCN(CC)CC | C6H15N
solvent | EtOH AcOEt | 210 ml | CCO.CCOC(=O)C
catalyst | Pd-C | 1.83 g | [Pd] | Pd
product | (2S*,3S*,4R*,5R*)-1-Benzyloxycarbonyl-4-benzyloxymethyl-3-[N-(t-butoxycarbonyl)amino]-5-methyl-2-phenylpyrrolidine | 7.60 g, 95% | C(C1=CC=CC=C1)OC(=O)N1[C@H]([C@H]([C@H]([C@H]1C)COCC1=CC=CC=C1)NC(=O)OC(C)(C)C)C1=CC=CC=C1 | C32H38N2O5
